US07855216B2
3-(2-Fluoro-4-iodo-phenylamino)-1-(2-methoxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A mixture of 3-(2-Fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (234 mg, 0.55 mmol), potassium carbonate (91 mg, 0.66 mg), sodium iodide (103 mg, 0.69 mmol) and 1-bromo-2-methoxy-ethane (0.057 mL, 0.61 mmol) in DMF (5 mL) was stirred a 90° C. for 2 days. It was cooled to room temperature, diluted with water and extracted into ethyl acetate. The organic layer was separated then washed with water followed by brine, then dried (Na2SO4), filtered and concentrated to give a residue which was purified by flash chromatography (Si-PPC, ether:pentane, gradient 20:80 to 50:50) to provide the title compound as a yellow oil (44 mg, 16%). LCMS (method B): RT=2.56 min, M+H+=483.

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.55 mmol, 234 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1)NC1=C(C=C(C=C1)I)F | C16H13FIN3O2
reactant | potassium carbonate | 91 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.69 mmol, 103 mg | [I-].[Na+]
reactant | 1-bromo-2-methoxy-ethane | 0.61 mmol, 0.057 mL | BrCCOC | C3H7BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-(2-methoxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 44 mg, 16% | C(C)OC(=O)C1=C(C=2C=NC=CC2N1CCOC)NC1=C(C=C(C=C1)I)F | C19H19FIN3O3
